US07601844B2
Step-2: 5-Amino-6-cyano-2-(trifluoromethyl)pyridine
12.5 g (0.434 mol, 1 eq) of 5-amino-6-iodo-2-(trifluoromethyl)pyridine was dissolved in 125 mL of dry DMF and degasified with nitrogen for 5 min. 6.1 g (0.519 mol, 1.2 eq) of zinc cyanide and 5 g (0.1 eq) of Pd(PPh3)4 were added and heated at 100° C. for over night. The reaction mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine and concentrated. The crude product obtained was purified by 60-120 silica gel using 15% of ethyl acetate in pet ether to get 7 g (86.31%) of pale yellow solid. 1H NMR (CDCl3, 400 MHz): 4.85 (2H, bs), 7.25 (1H, d), 7.62 (1H, d). MS 188 (M+H)+.

reactant | 5-amino-6-iodo-2-(trifluoromethyl)pyridine | 0.434 mol, 12.5 g, 1 eq | NC=1C=CC(=NC1I)C(F)(F)F | C6H4F3IN2
reactant | DMF | 125 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.519 mol, 6.1 g, 1.2 eq | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 5 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Amino-6-cyano-2-(trifluoromethyl)pyridine | 7 g, 86.31% | NC=1C=CC(=NC1C#N)C(F)(F)F | C7H4F3N3
